US07022725B2
To a solution of ethyl 5-(4-chloro-3-methylphenyl)isoxazole-4-carboxylate (8.50 g) in tetrahydrofuran (100 ml) was gently added diisobutylaluminum hydride (1.5 M toluene solution, 47 ml) at 0° C., and the mixture was stirred at room temperature for 1 hr. The reaction mixture was poured into dilute hydrochloric acid, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated to give 5-(4-chloro-3-methylphenyl)-4-isoxazolylmethanol (6.13 g, yield 86%) as colorless crystals, which were recrystallized from ethyl acetate-hexane to give a colorless needle. melting point: 92–93° C.

reactant | ethyl 5-(4-chloro-3-methylphenyl)isoxazole-4-carboxylate | 8.50 g | ClC1=C(C=C(C=C1)C1=C(C=NO1)C(=O)OCC)C | C13H12ClNO3
reactant | diisobutylaluminum hydride | 1.5 M, 47 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 5-(4-chloro-3-methylphenyl)-4-isoxazolylmethanol | 6.13 g, yield 86% | ClC1=C(C=C(C=C1)C1=C(C=NO1)CO)C | C11H10ClNO2
